US07612067B2
C. 1-{2,6-Dimethyl-3-[3-methyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazin-8-yl}-propan-1-one.
To a −78° C. solution of 2,6-dimethyl-3-[3-methyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine (0.34 g, 1.02 mmol) and THF (9 mL) is added 2.0 M LDA (0.61 mL, 1.22 mmol). After 3 minutes, N-methoxy-N-methyl-propionamide (Wolberg et. el. Chem. Eur. J., 2001, 7, 4562) (1.17 g, 1.42 mmol) is added and the solution stirred for 20 minutes, warmed to ambient temperature and stirred for 30 minutes. The solution is diluted with EtOAc (50 mL) washed with sat. NH4Cl (30 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO column chromatography (20%-30% EtOAc/hexane gradient) furnish the title compound (0.10 g, 0.26 mmol, 25%). 1H NMR (CDCl3), δ 1.28 (t, J=7.0 Hz, 3H), 2.13 (s, 3H), 2.54 (s, 3H), 2.58 (s, 6H), 3.59 (q, J=7.0 Hz, 2H), 7.03 (d, J=7.5 Hz, 1H), 7.33 (s, 1H), 7.47 (d, J=7.9 Hz, 1H), 7.55 (bs, 1H), 7.58 (dd, J=7.9, 7.5 Hz, 1H). LC/MS (m/z): calcd. for C22H22N4OS (M+H)+: 391.2; found: 391.2.

reactant | 2,6-dimethyl-3-[3-methyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine | 1.02 mmol, 0.34 g | CC=1N=C2N(N=C(C=C2)C)C1C=1SC(=CC1C)C1=NC(=CC=C1)C | C19H18N4S
reactant | THF | 9 mL | C1CCOC1 | C4H8O
reactant | LDA | 1.22 mmol, 2.0 M, 0.61 mL | [Li+].CC(C)[N-]C(C)C
reactant | N-methoxy-N-methyl-propionamide | 1.42 mmol, 1.17 g | CON(C(CC)=O)C | C5H11NO2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-{2,6-Dimethyl-3-[3-methyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazin-8-yl}-propan-1-one | 0.26 mmol, 0.10 g, 25% | CC=1N=C2N(N=C(C=C2C(CC)=O)C)C1C=1SC(=CC1C)C1=NC(=CC=C1)C | C22H22N4OS
